US04990505
E-Methyl 3-[4-(diethylamino)phenyl]-2-propenoate
A solution of 4-(diethylamino) benzaldehyde (10 g) and carbomethoxymethylenetriphenylphosphorane (20 g) in dry acetonitrile (100 ml) was stirred at reflux under nitrogen for 24 h. The solvent was evaporated and the residual oil was treated with ER (100 ml). The precipitate was filtered, the filtrate was concentrated to an oil and the ER treatment was repeated. After filtration and evaporation the resulting orange oil was purified by [FCS] eluting with cyclohexane/EA/triethylamine 80:20:1) to give the title compound (10.0 g). T.l.c. (cyclohexane/EA/triethylamine 80:20:1) Rf 0.33.

reactant | 4-(diethylamino) benzaldehyde | 10 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | carbomethoxymethylenetriphenylphosphorane | 20 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | E-Methyl 3-[4-(diethylamino)phenyl]-2-propenoate | 10.0 g | C(C)N(C1=CC=C(C=C1)/C=C/C(=O)OC)CC | C14H19NO2
